Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
verapamil / spironolactone / nifedipine / diltiazem / lisinopril
 
Attending: ___.
 
Chief Complaint:
Right ICA aneurysm. 
 
Major Surgical or Invasive Procedure:
___: Pipeline embolization of right ICA aneurysm

 
History of Present Illness:
Ms. ___ is a ___ y/o female who presents for an elective 
pipeline embolization of the right ICA aneurysm. The risks and 
benefits of surgical intervention were discussed and the patient 
consented to the procedure. 
 
Past Medical History:
CHF
Dyslipidemia
Asthma
Arthritis
CKD stage 4
DM  type II
L adrenal nodule-hyoercortisolism

 
Social History:
___
Family History:
N/A
 
Physical Exam:
PHYSICAL EXAMINATION ON DISCHARGE:

Gen: WD/WN, comfortable, NAD.

HEENT: 
Pupils: R ___ (brisk), L ___ (sluggish)        
EOMs: Right intact, left know CN VI palsy (Lateral rectus 
restriction)

Extrem: Warm and well-perfused.

Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.

Orientation: Oriented to person, place, and date.

Language: Speech fluent with good comprehension and repetition. 
No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils R ___ (brisk), L ___ (sluggish)  
III, IV, VI: Right intact, left know CN VI palsy (Lateral rectus 
restriction)
V, VII: very slight left ptosis, very subtle left nasolabial 
flattening
VIII: Hearing intact to voice.
XII: Tongue very subtly deviated to right 

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch
 
Pertinent Results:
___ CAROTID/CEREBRAL COIL/STENT: 

PROCEDURE: 
1. Pipeline embolization of right paraophthalmic internal 
carotid artery 
aneurysm. 
  
FINDINGS:  
  
Left common carotid artery:  The left carotid bifurcation is 
free of 
arteriosclerotic disease or stenosis.  The left anterior 
intracranial 
circulation is notable for persistent filling of her recently 
pipeline and 
cavernous internal carotid artery aneurysm. 
  
Right internal carotid artery:  The right anterior intracranial 
circulation is 
notable for a 4.5 mm right paraophthalmic internal carotid 
artery aneurysm.  
After placement of the Pipeline embolization device there is no 
notable stasis 
within the aneurysm and persistent filling of all major right 
anterior 
circulation branches. 
  
IMPRESSION:  
  
Successful Pipeline embolization of right paraophthalmic 
internal carotid 
artery aneurysm.  Persistent filling of left cavernous internal 
carotid artery 
aneurysm. 
  
No thromboembolic complications. 

 
Brief Hospital Course:
Right ICA Aneurysm:
The patient was taken to the angio suite on the day of 
admission, ___ and underwent a pipeline embolization of 
the right ICA aneurysm. She tolerated the procedure well and was 
recovered in the PACU. She was later transferred to the ___ for 
close monitoring.

On ___, the patient's neurologic examination remained stable. 
Her arterial line and foley catheter were discontinued. It was 
determined she would be transferred to the floor. ___ and OT were 
ordered.

On ___, the patient remained neurologically stable. She 
ambulated well with nursing, therefore physical therapy deferred 
formal evaluation. The patient was deemed stable and ready for 
discharge home with appropriate follow-up. 
 
Medications on Admission:
Pro Air HFA 90mcg 2 puffs, allopurinaol 100 qd, clonazepam 0.5 
tid, clonidine hcl 0.3 tid, felodipine ER 10 mg qd, Lasix 40 mg 
qd, glipizide 1o mg BID, hydralazine 100 mg q 8 , metoprolol ER 
50 qd, Asmanes twist inhaler 220mcg, nitro prn, Zocor 40 mg qd. 
Brilinta 90 mg BID, ASA 81 mg, Tylenol prn, Vit D3, Iron 325 qd, 
MVit , Senna17 mg qd
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN fever or pain  
2.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation  
3.  Docusate Sodium 100 mg PO BID  
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every 6 hours as needed 
Disp #*45 Tablet Refills:*0 
5.  Senna 17.2 mg PO QHS  
6.  Albuterol Inhaler 2 PUFF IH Q4H:PRN wheeze  
7.  Allopurinol ___ mg PO DAILY  
8.  Aspirin 81 mg PO DAILY 
You must take this medication to prevent clotting  
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*45 Tablet 
Refills:*0 
9.  ClonazePAM 0.5 mg PO TID  
10.  CloNIDine 0.3 mg PO TID  
11.  Felodipine 10 mg PO DAILY  
12.  Furosemide 40 mg PO DAILY  
13.  GlipiZIDE 5 mg PO BID  
14.  Metoprolol Succinate XL 50 mg PO DAILY  
15.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN CP  
16.  Simvastatin 40 mg PO QPM  
17.  TiCAGRELOR 90 mg PO BID 
You must take this medication to prevent clotting  
RX *ticagrelor [Brilinta] 90 mg 1 tablet(s) by mouth twice a day 
Disp #*90 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
right ICA aneurysm

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - may require some assistance 

 
Discharge Instructions:
Activity
_x0095_You may gradually return to your normal activities, but we 
recommend you take it easy for the next ___ hours to avoid 
bleeding from your groin.
_x0095_Heavy lifting, running, climbing, or other strenuous exercise 
should be avoided for ten (10) days. This is to prevent bleeding 
from your groin.
_x0095_You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
_x0095_Do not go swimming or submerge yourself in water for five (5) 
days after your procedure.
_x0095_You make take a shower.
Medications
_x0095_Resume your normal medications and begin new medications as 
directed.
_x0095_You may be instructed by your doctor to take one ___ a day 
and Brilinta. If so, do not take any other products that have 
aspirin in them. If you are unsure of what products contain 
Aspirin, as your pharmacist or call our office.
_x0095_You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
_x0095_If you take Metformin (Glucophage) you may start it again 
three (3) days after your procedure.
Care of the Puncture Site
_x0095_You will have a small bandage over the site.
_x0095_Remove the bandage in 24 hours by soaking it with water and 
gently peeling it off.
_x0095_Keep the site clean with soap and water and dry it carefully.
_x0095_You may use a band-aid if you wish.

What You ___ Experience:
_x0095_Mild tenderness and bruising at the puncture site (groin).
_x0095_Soreness in your arms from the intravenous lines.
_x0095_Mild to moderate headaches that last several days to a few 
weeks.
_x0095_Fatigue is very normal
_x0095_Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.
When to Call Your Doctor at ___ for:
_x0095_Severe pain, swelling, redness or drainage from the puncture 
site. 
_x0095_Fever greater than 101.5 degrees Fahrenheit
_x0095_Constipation
_x0095_Blood in your stool or urine
_x0095_Nausea and/or vomiting
_x0095_Extreme sleepiness and not being able to stay awake
_x0095_Severe headaches not relieved by pain relievers
_x0095_Seizures
_x0095_Any new problems with your vision or ability to speak
_x0095_Weakness or changes in sensation in your face, arms, or leg

 
Followup Instructions:
___